* Copyright 2022 GlobalFoundries PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     http://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

.SUBCKT gf180mcu_fd_io__asig_5p0 ASIG5V DVDD DVSS VDD VSS
D0 DVSS DVDD diode_nd2ps_06v0 m=4.0 area=40e-12 pj=82e-6
X1 DVDD DVSS cap_nmos_06v0 m=36.0 c_length=15e-6 c_width=15e-6
D2 DVSS ASIG5V diode_nd2ps_06v0 m=4.0 area=150e-12 pj=106e-6
D3 ASIG5V DVDD diode_pd2nw_06v0 m=4.0 area=150e-12 pj=106e-6
.ENDS


******* EOF

